US08008298B2
A solution of 2,2-dimethyl-4-morpholin-4-yl-1-[2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butan-1-one (0.024 g, 0.040 mmol) in 1 mL of dichloromethane and 0.5 mL of trifluoroacetic acid was stirred for 3 h, then concentrated. The resulting residue was dissolved in 1 mL of ethanol and treated with sodium acetate trihydrate (0.054 g, 0.40 mmol). The mixture was stirred for 16 h, then concentrated to a residue. Column chromatography (0→10% MeOH/CH2Cl2) afforded 0.014 g (75%) of 2,2-dimethyl-4-morpholin-4-yl-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butan-1-one as a brown solid.

reactant | 2,2-dimethyl-4-morpholin-4-yl-1-[2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butan-1-one | 0.040 mmol, 0.024 g | CC(C(=O)C1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)COCC[Si](C)(C)C)(CCN2CCOCC2)C | C31H46N4O6Si
reactant | sodium acetate trihydrate | 0.40 mmol, 0.054 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2,2-dimethyl-4-morpholin-4-yl-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butan-1-one | 0.014 g, 75% | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)(CCN2CCOCC2)C | C25H32N4O5
